US07538123B2
231 mg of 6-methoxy-2-methyl-5-(3-methyl-2-butenyl)benzoxazole was dissolved in 5 ml of tetrahydrofuran under nitrogen atmosphere. Thereafter, 0.4 ml of a tetrahydrofuran solution containing 0.12 g of sodium borohydride and 0.1 ml of acetic acid was added to the reaction solution over 20 minutes, and the obtained mixture was stirred at room temperature overnight. The reaction solution was concentrated under a reduced pressure. A saturated ammonium chloride aqueous solution was added to the residue, followed by extraction with methylene chloride. The extract was washed with a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate), so as to obtain 80 mg of 2-ethylamino-5-methoxy-4-(3-methyl-2-butenyl)phenol containing a product whose structure was unknown. This compound was directly used in the following reaction without further purification.

reactant | 6-methoxy-2-methyl-5-(3-methyl-2-butenyl)benzoxazole | 231 mg | COC1=CC2=C(N=C(O2)C)C=C1CC=C(C)C | C14H17NO2
reactant | sodium borohydride | 0.12 g | [BH4-].[Na+]
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
product | 2-ethylamino-5-methoxy-4-(3-methyl-2-butenyl)phenol | 80 mg | C(C)NC1=C(C=C(C(=C1)CC=C(C)C)OC)O | C14H21NO2
